US04584132
Alternative Synthesis of (S)-N-[1-[[(Dimethoxyphosphinyl)amino]carbonyl]-2-oxo-3-azetidinyl]benzeneacetamide
A mixture of 105.6 mg (0.518 mmol) of (S)-N-(2-oxo-3-azetidinyl)benzeneacetamide, produced as in Example I, 6 mL of dimethoxyethane, and 2 mL of CH2Cl2 was stirred and cooled to 6° C.; 0.084 mL (0.776 mmol) of phosphorisocyanatidic dichloride was added, and stirring continued at 6°. After 15 minutes complete solution resulted. After an additional 45 minutes at 6° C., the mixture was cooled to -15°, and a solution of 0.216 mL of triethylamine, 0.125 mL of pyridine, and 1.5 mL of methanol was added. The resulting solution was stirred 1.5 hours at room temperature, and then concentrated under reduced pressure. A solution of the residue in CH2Cl2 was washed sequentially with water, 1N HCl, and brine, dried (MgSO4), treated with charcoal, filtered, and concentrated to dryness under reduced pressure. The residue was triturated with two 4 mL portions of ether, the ether decanted, and residual solvent removed from the remaining oil under reduced pressure to leave 72 mg of product.

reactant | (S)-N-(2-oxo-3-azetidinyl)benzeneacetamide | 0.518 mmol, 105.6 mg | O=C1NC[C@@H]1NC(CC1=CC=CC=C1)=O | C11H12N2O2
reactant | dimethoxyethane | 6 mL | C(OC)COC | C4H10O2
reactant | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
reactant | phosphorisocyanatidic dichloride | 0.776 mmol, 0.084 mL | P(=O)(N=C=O)(Cl)Cl | CCl2NO2P
reactant | methanol | 1.5 mL | CO | CH4O
solvent | pyridine | 0.125 mL | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 0.216 mL | C(C)N(CC)CC | C6H15N
product | (S)-N-[1-[[(Dimethoxyphosphinyl)amino]carbonyl]-2-oxo-3-azetidinyl]benzeneacetamide | 72 mg | COP(=O)(OC)NC(=O)N1C([C@H](C1)NC(CC1=CC=CC=C1)=O)=O | C14H18N3O6P
